US07399759B2
Diethyl [6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methylphosphonate
Diethyl (6-cyano-2-pyridyl)methylphosphonate (1.4 g, 5.8 mmol) and methyl thiosalicylate (1.9 g, 11.6 mmol) were dissolved in toluene (8 ml), and triethylamine (4.0 ml, 28.6 mmol) was added thereto. The mixture was refluxed for 13 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate-methanol (10:1, v/v) were collected, concentrated and recrystallized from diisopropyl ether-ethanol to give the titled compound (510 mg, 22%) as pale yellow crystals.

reactant | Diethyl (6-cyano-2-pyridyl)methylphosphonate | 5.8 mmol, 1.4 g | C(#N)C1=CC=CC(=N1)CP(OCC)(OCC)=O | C11H15N2O3P
reactant | methyl thiosalicylate | 11.6 mmol, 1.9 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 28.6 mmol, 4.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | Diethyl [6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methylphosphonate | 510 mg, 22% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CP(OCC)(OCC)=O | C18H19N2O4PS
